US06251926B1
Lithium hydroxide monohydrate (402 mg) was added to a solution of ethyl E-3-[4-(5-methyl-2-phenyl4-oxazolylmethoxy)benzyloxyimino]-3-phenylpropionate (1.16 g) in tetrahydrofuran (60 ml)-water (40 ml) and stirred at room temperature for 18 hours. Dilute hydrochloric acid was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized to obtain 3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-3-phenylpropionic acid (1.08 g, yield 99%) as colorless crystals. m.p. 107-108° C.

reactant | Lithium hydroxide monohydrate | 402 mg | O.[OH-].[Li+]
reactant | ethyl E-3-[4-(5-methyl-2-phenyl4-oxazolylmethoxy)benzyloxyimino]-3-phenylpropionate | 1.16 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/CC(=O)OCC)\C2=CC=CC=C2)C=C1 | C29H28N2O5
reactant | water | 40 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-3-phenylpropionic acid | 1.08 g, yield 99% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CON=C(CC(=O)O)C2=CC=CC=C2)C=C1 | C27H24N2O5
